US04871730
p-Nitrobenzyl 7-[2-(p-nitrobenzyloxycarbonylmethoxyimino)-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-vinylthio-3-cephem-4-carboxylate (syn isomer) (2.3 g) was hydrogenated in the presence of 5% palladium on carbon in a mixture of tetrahydrofuran (100 ml), ethanol (11.5 ml) and 0.025M phosphate buffer solution (pH 6.85) (125 ml) at ambient temperature for 5 hours under 1 atmospheric pressure of hydrogen. The catalyst was filtered off and washed with ethyl acetate and a saturated aqueous solution of sodium bicarbonate successively. The filtrate and washings were combined and adjusted to pH 8 with dilute hydrochloric acid. The aqueous layer was separated, adjusted to pH 6 with dilute hydrochloric acid and washed with ethyl acetate. The aqueous layer was adjusted to pH 2 with dilute hydrochloric acid and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, concentrated in vacuo and triturated with diisopropyl ether to give 7-[2-carboxymethoxyimino-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-vinylthio-3-cephem-4-carboxylic acid (syn isomer) (1.05 g).

reactant | p-Nitrobenzyl 7-[2-(p-nitrobenzyloxycarbonylmethoxyimino)-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-vinylthio-3-cephem-4-carboxylate | 2.3 g | [N+](=O)([O-])C1=CC=C(COC(=O)CON=C(C(=O)NC2[C@@H]3N(C(=C(CS3)C=C)C(=S)OCC3=CC=C(C=C3)[N+](=O)[O-])C2=O)C=2N=C(SC2)NC(C(F)(F)F)=O)C=C1 | C32H24F3N7O11S3
reactant | ethanol | 11.5 ml | C(C)O | C2H6O
reactant | phosphate | 0.025M, 125 ml, pH 6.85 | P(=O)([O-])([O-])[O-]
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 7-[2-carboxymethoxyimino-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-vinylthio-3-cephem-4-carboxylic acid | 1.05 g | C(=O)(O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=S)O)C1=O)C=1N=C(SC1)NC(C(F)(F)F)=O | C18H14F3N5O7S3
